US05039814
1-(2-Trityltetrazol-5-yl)-2-(4-tolyl)benzene
(2-Trityltetrazol-5-yl)benzene (25.0 g) was dissolved in dry THF (250 mL) and the solution of the tetrazole was cooled to -20° C. and n-butyllithium (28.3 mL, 2.5M in hexanes) was added. The mixture was gradually warmed to -10° C. over 1 hour and then aged at this temperature for an additional 30 minutes. A 1.4M THF solution of zinc chloride (51.3 mL) was then added to the aryllithium reagent prepared above while maintaining the lithium reagent solution at ≤0° C. In another flask an activated nickel catalyst solution was prepared as follows. To a solution of (PPh3)2NiCl2 (2.5 g) in THF (35 mL) at 0° C. was added methylmagnesium chloride (2.5 mL, 3M in THF) followed by p-iodotoluene (17.5 g). The catalyst solution was warmed to 20° C. and the solution of the zinc reagent was added at a rate that maintained the reaction temperature between 20° to 25° C. Ten hours after the addition of the zinc reagent to the reaction was complete, the reaction mixture was cooled to 0° C., 8.0 g of SuperCel (filter aid) was added, followed by the addition of concentrated ammonium hydroxide (15 mL) over 30 minutes. The heterogeneous solution was aged at 0° C. for 1 hour and filtered. The filter cake was washed with THF (50 mL). The filtrate was washed with a mixture of saturated NaCl (80 mL) and saturated NaHCO3 (30 mL) and the layers separated. The THF layer was dried with anhydrous Na2CO3 (30 g) and filtered. The volume of the filtrate was reduced to 150 mL and cyclohexane (300 mL) was added. The THF was further distilled in vacuo while the temperature of the mixture was maintained at 40° to 45° C. Cyclohexane was added periodically to maintain the volume at 200 mL. When the amount of THF dropped to ≤3 percent, the distillation was stopped and the mixture was cooled to room temperature. Hexanes (150 mL) was then added and the mixture further aged at 0° C. for 1 hour. The product was collected and washed with hexanes (100 mL). The yield was 28.8 g (94%).

reactant | (2-Trityltetrazol-5-yl)benzene | 25.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=N1)C1=CC=CC=C1 | C26H20N4
reactant | tetrazole | N1N=NN=C1 | CH2N4
reactant | n-butyllithium | 2.5M, 28.3 mL | C(CCC)[Li]
reactant | lithium | [Li] | Li
reactant | methylmagnesium chloride | 3M, 2.5 mL | C[Mg]Cl
reactant | p-iodotoluene | 17.5 g | IC1=CC=C(C=C1)C | C7H7I
solvent | THF | 250 mL | C1CCOC1 | C4H8O
catalyst | nickel | [Ni] | Ni
solvent | THF | 35 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 51.3 mL | [Cl-].[Zn+2].[Cl-]
catalyst | (PPh3)2NiCl2 | 2.5 g | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | zinc | [Zn] | Zn
solvent | THF | 1.4M | C1CCOC1 | C4H8O
product | 1-(2-Trityltetrazol-5-yl)-2-(4-tolyl)benzene | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=N1)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C33H26N4
